US04379167
1-(2-Ethoxyphenoxy)-4-phthalimido-2-butanol
A mixture of 30 g. (0.12 mole) of 1-(2-ethoxyphenoxy)-4-chloro-2-butanol and 18.5 g. (0.10 mole) of potassium phthalimide was heated slowly to 130° C. for 10 min. and at 160° C. for one hour with stirring. The reaction mixture was extracted with 250 ml. of hot toluene. A crystalline solid separated from the toluene extract when cooled to room temperature. The solid was recrystallized from toluene and melted at 93°-95° C.

reactant | 1-(2-ethoxyphenoxy)-4-chloro-2-butanol | 0.12 mole | C(C)OC1=C(OCC(CCCl)O)C=CC=C1 | C12H17ClO3
reactant | potassium phthalimide | 0.10 mole | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
product | 1-(2-Ethoxyphenoxy)-4-phthalimido-2-butanol | C(C)OC1=C(OCC(CCN2C(C=3C(C2=O)=CC=CC3)=O)O)C=CC=C1 | C20H21NO5
